US07989472B2
Step A: 1-(6-Methoxy-2-naphthyl)-4-(trifluoromethyl)cyclohexanol, Isomers A and B
To a cold (−78° C.) anhydrous solution of 2-methoxy-6-bromonaphthalene (1.52 g, 6.40 mmol) in THF (40 mL) was added n-BuLi (6.9 mL of a 2.5 M solution in hexanes, 6.9 mmol). The mixture was stirred at −78° C. under a nitrogen atmosphere for 15 min, then 4-(trifluoromethyl)cyclohexanone (0.88 g, 5.3 mmol) was added slowly to the reaction mixture. The bath was allowed to warm to room temperature and the reaction mixture was quenched with saturated NH4Cl (aq). The resultant mixture was extracted with EtOAc/hexanes. The organic layer was evaporated in vacuo and the crude residue was purified by flash chromatography on silica gel using gradient elution (0% to 20% EtOAc/hexanes, 150 mL; 20% to 35% EtOAc/hexanes, 204 mL; 35% to 75% EtOAc/hexanes, 381 mL) to provide Isomer A as the faster-eluting product and Isomer B as the slower-eluting product.

reactant | 2-methoxy-6-bromonaphthalene | 6.40 mmol, 1.52 g | COC1=CC2=CC=C(C=C2C=C1)Br | C11H9BrO
reactant | n-BuLi | [Li]CCCC
reactant | 4-(trifluoromethyl)cyclohexanone | 5.3 mmol, 0.88 g | FC(C1CCC(CC1)=O)(F)F | C7H9F3O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-(6-Methoxy-2-naphthyl)-4-(trifluoromethyl)cyclohexanol | COC=1C=C2C=CC(=CC2=CC1)C1(CCC(CC1)C(F)(F)F)O | C18H19F3O2
